2124-08-29 22:43:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65M w/ CML s/p allo-SCT
 multiple recent admission for respiratory
   infections. Over the past 5 days or so has been experiencing worsening
   dyspnea. Today became more SOB at home following episode of diarrhea.
   VNA measured pulse ox in 70's and sent him to ER. In ER 7.31/68/118 on
   unclear amount of O2.
   He was intubated and a CXR showed LLL opacity, unclear if infiltrate
   versus effusion. He required CVL placement and was placed on levophed.
   He received IVF and broad antibiotics. His pressors have been weaned
   and his hemodynamics have stabilized.  He is currently stable on the
   vent with diminishing O2 needs.
   History obtained from housestaff
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   CML
   s/p allo-SCT [**2121**]
   GVHD
   bronchiolitis obliterans/bronchiectasis
   DVT/PE
   multiple pnemonias
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-29**] 10:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 52 (52 - 61) bpm
   BP: 92/55(64) {83/51(58) - 163/85(102)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
             1,426 mL
   PO:
             TF:
   IVF:
   1,426 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 96%
   ABG: 7.35/53/177
   Ve: 7.9 L/min
   PaO2 / FiO2: 354
   Physical Examination
   Intubated, sedated
   HEENT unremarkable
   Neck supple, R IJ in place
   Hrt RRR, distant
   Lungs diminished BS
s on left, no wheezes
   Abd benign
   Extrem [**12-21**]+ pitting edema, erythematous lower legs though no obvious
   cellulitis
   Labs / Radiology
   260
   124
   1.1
   37
   4.8
   24
   100
   145
   34
   8
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
   TCO2
   30
   Other labs: CK / CKMB / Troponin-T:35//, Alk Phos / T Bili:680/0.4,
   Band:33, Albumin:3.6
   CXR intubated, R IJ, LLL opacification and volume loss
   EKG
 NSR, no new ischemia
   Assessment and Plan
   Resp failure - new volume loss and possible effusion on left likely due
   to mucus plugging in setting of infection, will continue broad
   antibiotics. Increase PEEP and if his LLL does not re-aerate, a CT may
   be necessary to look for effusion.  Bronch to clear secretions from
   LLL. Less suspicious of PE, CHF.
   Hypotension - suspect related to infection. Received IVF and pressors
   now off. Will follow
   CML/allo-SCT/GVHD - continue outpatient regimen of immunosuppression
   though will increase steroids briefly, continue prophylactic regimen.
   Elevated troponin - improving, unclear significance, follow EKG
   Diarrhea - check CDiff
   DVT/PE - continue lovenox
   Elevated LFTs - follow, may be GVHD, image if necessary
   ICU Care
   Nutrition: TF
s once OG placed
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill
   Addendum:
   Bronch showed minimal secretions (had been suctioned thoroughly just
   prior to procedure) and patent airways.

2124-08-29 22:43:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65M w/ AML s/p allo-SCT - over the past 5 days or so has been
   experiencing worsening dyspnea. Today became more SOB at home following
   epidsode of diarrhea. VNA measured pulse ox in 70's and sent him to ER.
   In ER 7.31/68/118 on unclear amount of O2.
   In ER, he was inubated and a CXR showed LLL infiltrate. He required CVL
   placement and was placed on levophed. He received IVF and broad
   antibiotics. His pressors have been weaned and his hemodynamics have
   stabilized.
   History obtained from housestaff
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   CML
   s/p allo-SCT [**2121**]
   GVHD
   bronchiolitis obliterans/bronchiectasis
   DVT/PE
   multiple pnemonias
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-29**] 10:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 52 (52 - 61) bpm
   BP: 92/55(64) {83/51(58) - 163/85(102)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
             1,426 mL
   PO:
             TF:
   IVF:
   1,426 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 96%
   ABG: 7.35/53/177
   Ve: 7.9 L/min
   PaO2 / FiO2: 354
   Physical Examination
   Labs / Radiology
   260
   37
   34
   8
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
   TCO2
   30
   Other labs: CK / CKMB / Troponin-T:35//, Alk Phos / T Bili:680/0.4,
   Band:33, Albumin:3.6
   Assessment and Plan
   Resp failure - new volume loss and possible effusion on left likely due
   to mucus plugging in setting of infection, will continue broad
   antibiotics. Increase PEEP and if his LLL does not re-aerate, a CT may
   be necessary to look for effusion.
   Hypotension - suspect related to infection. Received IVF and pressors
   now off. Will follow
   CML/allo-SCT/GVHD - continue outpatient regimen of immunosuppression
   though will increase steroids briefly, continue prophylactic regimen.
   Elevated troponin - improving, unclear significance, follow EKG
   Diarrhea - check CDiff
   DVT/PE - continue lovenox
   Elevated LFTs - follow, may be GVHD, image if necessary
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2124-08-29 22:43:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65M w/ CML s/p allo-SCT
 multiple recent admission for respiratory
   infections. Over the past 5 days or so has been experiencing worsening
   dyspnea. Today became more SOB at home following episode of diarrhea.
   VNA measured pulse ox in 70's and sent him to ER. In ER 7.31/68/118 on
   unclear amount of O2.
   He was intubated and a CXR showed LLL opacity, unclear if infiltrate
   versus effusion. He required CVL placement and was placed on levophed.
   He received IVF and broad antibiotics. His pressors have been weaned
   and his hemodynamics have stabilized.  He is currently stable on the
   vent with diminishing O2 needs.
   History obtained from housestaff
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   CML
   s/p allo-SCT [**2121**]
   GVHD
   bronchiolitis obliterans/bronchiectasis
   DVT/PE
   multiple pnemonias
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-29**] 10:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 52 (52 - 61) bpm
   BP: 92/55(64) {83/51(58) - 163/85(102)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
             1,426 mL
   PO:
             TF:
   IVF:
   1,426 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 96%
   ABG: 7.35/53/177
   Ve: 7.9 L/min
   PaO2 / FiO2: 354
   Physical Examination
   Intubated, sedated
   HEENT unremarkable
   Neck supple, R IJ in place
   Hrt RRR, distant
   Lungs diminished BS
s on left, no wheezes
   Abd benign
   Extrem [**12-21**]+ pitting edema, erythematous lower legs though no obvious
   cellulitis
   Labs / Radiology
   260
   37
   34
   8
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
   TCO2
   30
   Other labs: CK / CKMB / Troponin-T:35//, Alk Phos / T Bili:680/0.4,
   Band:33, Albumin:3.6
   Assessment and Plan
   Resp failure - new volume loss and possible effusion on left likely due
   to mucus plugging in setting of infection, will continue broad
   antibiotics. Increase PEEP and if his LLL does not re-aerate, a CT may
   be necessary to look for effusion.
   Hypotension - suspect related to infection. Received IVF and pressors
   now off. Will follow
   CML/allo-SCT/GVHD - continue outpatient regimen of immunosuppression
   though will increase steroids briefly, continue prophylactic regimen.
   Elevated troponin - improving, unclear significance, follow EKG
   Diarrhea - check CDiff
   DVT/PE - continue lovenox
   Elevated LFTs - follow, may be GVHD, image if necessary
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2124-08-29 22:43:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65M w/ CML s/p allo-SCT
 multiple recent admission for respiratory
   infections. Over the past 5 days or so has been experiencing worsening
   dyspnea. Today became more SOB at home following episode of diarrhea.
   VNA measured pulse ox in 70's and sent him to ER. In ER 7.31/68/118 on
   unclear amount of O2.
   He was intubated and a CXR showed LLL opacity, unclear if infiltrate
   versus effusion. He required CVL placement and was placed on levophed.
   He received IVF and broad antibiotics. His pressors have been weaned
   and his hemodynamics have stabilized.  He is currently stable on the
   vent with diminishing O2 needs.
   History obtained from housestaff
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   CML
   s/p allo-SCT [**2121**]
   GVHD
   bronchiolitis obliterans/bronchiectasis
   DVT/PE
   multiple pnemonias
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-29**] 10:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 52 (52 - 61) bpm
   BP: 92/55(64) {83/51(58) - 163/85(102)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
             1,426 mL
   PO:
             TF:
   IVF:
   1,426 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 96%
   ABG: 7.35/53/177
   Ve: 7.9 L/min
   PaO2 / FiO2: 354
   Physical Examination
   Intubated, sedated
   HEENT unremarkable
   Neck supple, R IJ in place
   Hrt RRR, distant
   Lungs diminished BS
s on left, no wheezes
   Abd benign
   Extrem [**12-21**]+ pitting edema, erythematous lower legs though no obvious
   cellulitis
   Labs / Radiology
   260
   124
   1.1
   37
   4.8
   24
   100
   145
   34
   8
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
   TCO2
   30
   Other labs: CK / CKMB / Troponin-T:35//, Alk Phos / T Bili:680/0.4,
   Band:33, Albumin:3.6
   CXR intubated, R IJ, LLL opacification and volume loss
   EKG
 NSR, no new ischemia
   Assessment and Plan
   Resp failure - new volume loss and possible effusion on left likely due
   to mucus plugging in setting of infection, will continue broad
   antibiotics. Increase PEEP and if his LLL does not re-aerate, a CT may
   be necessary to look for effusion.  Bronch to clear secretions from
   LLL. Less suspicious of PE, CHF.
   Hypotension - suspect related to infection. Received IVF and pressors
   now off. Will follow
   CML/allo-SCT/GVHD - continue outpatient regimen of immunosuppression
   though will increase steroids briefly, continue prophylactic regimen.
   Elevated troponin - improving, unclear significance, follow EKG
   Diarrhea - check CDiff
   DVT/PE - continue lovenox
   Elevated LFTs - follow, may be GVHD, image if necessary
   ICU Care
   Nutrition: TF
s once OG placed
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2124-08-30 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2124-8-29**] 07:00 PM
 MULTI LUMEN - START [**2124-8-29**] 07:04 PM
 SPUTUM CULTURE - At [**2124-8-29**] 11:00 PM
 BRONCHOSCOPY - At [**2124-8-29**] 11:29 PM
    Bronchoscopy last night did not show any significant secretions; was
   done after patient was suctioned really well
   PEEP was increased to 10, and FiO2 was decreased to 50%
 ABG:
   7.31/60/110
   Pt placed on Pressure Support [**3-26**] w FiO2 of 40% and tolerating well
   since early morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-8-29**] 08:23 PM
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Linezolid - [**2124-8-29**] 10:36 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-29**] 08:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-30**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.6
C (96.1
   HR: 53 (49 - 61) bpm
   BP: 112/63(76) {83/51(58) - 163/85(102)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
    CVP: 7 (6 - 9)mmHg
   Total In:
                                                                  1,746 mL
                                                                     88 mL
   PO:
   TF:
   IVF:
                                                                  1,746 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    380 mL
   Urine:
                                                                    140 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,406 mL
                                                                   -292 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 509 (410 - 509) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   Compliance: 125 cmH2O/mL
   SpO2: 99%
   ABG: 7.33/60/110/32/4
   Ve: 8.3 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General: responsive to verbal commands, no acute distress
   HEENT: intubated, pupils equal and reactive
   Neck: RIJ in place, bleeding significantly from the site ;  bleeding
   also from right subclavian site where it appears another central line
   had been attempted previously
   Lungs: Coarse BS bilat with diminished sounds at L base
   CV: soft heart sounds, RRR no m/r/g.
   Abdomen: soft, diffuse tenderness without rebound/guarding, mildly
   distended, bowel sounds present
   Ext: ecchymotic, 3+ LE pitting edema, weeping; has some erythema on
   lower anterior legs L>R . Warm with 2+ pulses; toes almost
   cyanotic-appearing but warm.
   Skin: very thin and delicate; has skin tears ; dark ecchymoses right
   shoulder and upper chest
   Labs / Radiology
   181 K/uL
   8.4 g/dL
   177 mg/dL
   0.8 mg/dL
   32 mEq/L
   5.2 mEq/L
   21 mg/dL
   104 mEq/L
   141 mEq/L
   27.1 %
   7.9 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
   WBC
   7.9
   Hct
   27.1
   Plt
   181
   Cr
   0.8
   TropT
   0.26
   0.19
   TCO2
   30
   33
   Glucose
   177
   Other labs: CK / CKMB / Troponin-T:30/7/0.19, ALT / AST:70/52, Alk Phos
   / T Bili:437/0.2, Differential-Neuts:95.8 %, Lymph:1.5 %, Mono:2.3 %,
   Eos:0.1 %, LDH:263 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression, w recent hospitalizations for his
   bronchiolitis obliterans and for resistant pseudomonal infections,
   presenting w respiratory distress and hypotension.
   .
   # Hypoxic Respiratory Failure:
   Likely secondary to pneumonia in the setting of his chronic lung
   disease.  He would be likely to have mucus plugging but Bronch last
   night didn
t show any significant secretions or mucus plugging.  PE
   less likely w chronic anticoagulation
possible, but appears to be
   septic.  [**Month (only) 60**] have some worsening of his bronchiectasis and
   bronchiolitis obliterans.
   - Pt comfortable on PEEP 10
 try decreasing PEEP slowly to see how he
   tolerates it
   - Broad-spectrum coverage w zosyn and linezolid for now to cover
   multiple organisms w various drug resistance patterns
   - f/u w ID Abx recs
   - f/u Endotracheal sputum for culture
   - Non-contrast Chest CT b/c his lung parenchyma so complex; difficult
   to assess his lungs by xray
   .
   # Hypotension:
   Likely secondary to sepsis because patient's BP did not appear to
   respond to fluids in the ED, and he presented w bandemia of 33% lactate
   of 3.5.  Has been weaned off norepinephrine and MAPs stable in low 70s
   so far w good urine output.
   - IVF boluses as needed for BP and urine output
   - continue linezolid, zosyn for now to broadly cover organisms he has
   grown out in past
   - f/u w ID Recs regarding complicated hx of multiple organisms w strong
   resistance patterns
   - holding home metoprolol
   .
   # CML s/p BMT, Chronic GVHD, immunosuppression:
   Chronic Abdominal pain. needs stress dose steroids, but consider he
   needs to fight infection and should not be further suppressed w
   steroids.
   - IV methylpredisolone Q8h
   - needs increase in PPI dose
   - needs sliding scale insulin for increased steroid dose
   - trend LFTs
   - cont cellcept
   - cont bactrim, acyclovir, voriconazole for prophylaxis
   .
   # Troponin Leak:
   Trop in ED was elevated to 0.66 and trended down, but CK and CK-MB were
   normal. EKG did not show any changes (inferior lead non-specific Twave
   changes were in previous EKGs). Not likely to be an ACS. [**Month (only) 60**] have had
   some demand ischemia related to hypotension.
   - continue to monitor
   .
   # Diarrhea:
   Pt has had multiple recent hospitalizations on strong antibiotics, and
   he was just discharged from Rehab prior to this admission. He is on
   multiple antibiotics for his home prophylactic regimen as well. Likely
   has an antibiotic-associated diarrhea.  [**Month (only) 60**] also have a GVHD-associated
   diarrhea.
   - cf/u C. diff
   - cont to monitor
   .
   # Hx of PE, DVT:
   Has hx of multiple PEs in [**2122**] and DVT in early [**2123**]. Needs chronic
   anticoagulation.
   - Continue on home dose of lovenox , 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace from home
   - pain control w fentanyl patches and has IV fentanyl for sedation on
   Vent
   - have held some of his home pain meds (e.g., methadone), which should
   be added back when he is no longer on sedation
   .
   # hx of GERD
   - Lansoprazole via NG tube
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT:  lovenox for PE/DVT
   Stress ulcer:  lansoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments:  Sister
   [**Name (NI) 66**] status:  Full
   Disposition:

2124-08-30 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2124-8-29**] 07:00 PM
 MULTI LUMEN - START [**2124-8-29**] 07:04 PM
 SPUTUM CULTURE - At [**2124-8-29**] 11:00 PM
 BRONCHOSCOPY - At [**2124-8-29**] 11:29 PM
   PS [**3-26**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-8-29**] 08:23 PM
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Linezolid - [**2124-8-29**] 10:36 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-29**] 08:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-30**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.6
C (96.1
   HR: 53 (49 - 61) bpm
   BP: 112/63(76) {83/51(58) - 163/85(102)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
    CVP: 7 (6 - 9)mmHg
   Total In:
                                                                  1,746 mL
                                                                     88 mL
   PO:
   TF:
   IVF:
                                                                  1,746 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    380 mL
   Urine:
                                                                    140 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,406 mL
                                                                   -292 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 509 (410 - 509) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   Compliance: 125 cmH2O/mL
   SpO2: 99%
   ABG: 7.33/60/110/32/4
   Ve: 8.3 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General: responsive to verbal commands, no acute distress
   HEENT: intubated, pupils equal, slightly reactive
   Neck: RIJ in place
   Lungs: Coarse BS bilat with diminished sounds at L base
   CV: soft heart sounds, RRR no m/r/g.
   Abdomen: soft, diffuse inconsistent tenderness without
   rebound/guarding, non-distended, bowel sounds present, no organomegaly
   Ext: ecchymotic, 3+ LE pitting edema. Warm with 2+ pulses.
   Skin: very thin and delicate; dark ecchymoses right shoulder and upper
   chest
   Labs / Radiology
   181 K/uL
   8.4 g/dL
   177 mg/dL
   0.8 mg/dL
   32 mEq/L
   5.2 mEq/L
   21 mg/dL
   104 mEq/L
   141 mEq/L
   27.1 %
   7.9 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
   WBC
   7.9
   Hct
   27.1
   Plt
   181
   Cr
   0.8
   TropT
   0.26
   0.19
   TCO2
   30
   33
   Glucose
   177
   Other labs: CK / CKMB / Troponin-T:30/7/0.19, ALT / AST:70/52, Alk Phos
   / T Bili:437/0.2, Differential-Neuts:95.8 %, Lymph:1.5 %, Mono:2.3 %,
   Eos:0.1 %, LDH:263 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression, w recent hospitalizations for his
   bronchiolitis obliterans and for resistant pseudomonal infections,
   presenting w respiratory distress and hypotension.
   .
   # Hypoxic Respiratory Failure:
   His respiratory distress may be secondary to pneumonia in the setting
   of his chronic lung disease. Also in the differential, he may have
   mucus plugging or worsening of his bronchiectasis and bronchiolitis
   obliterans, which were thought to be secondary to his GVH.  PE less
   likely, but to consider given his history of multiple PEs in the past
   and multiple recent hospitalizations.  Less likely to have CHF, as he
   has no history of systolic or diastolic dysfunction.  Patient was
   intubated in ER after hypercapneic and hypoxic w non-rebreather.
   - on Assist Control w PEEP of 5.  Try to recruit more alveoli by
   increasing PEEP, and wean down FiO2 as tolerated, following O2sats for
   oxygenation
   - draw VBG and ABG to correlate them, so that we can follow VBGs for
   ventilation
   - Broad-spectrum coverage w zosyn and linezolid for now to cover
   multiple organisms w various drug resistance patterns
   - Endotracheal sputum for culture
   - Bronchoscopy for BAL and to clean out any mucus
   - Consider Chest CT in AM if CXR unimproved
   .
   # Hypotension:
   Likely secondary to sepsis because patient's BP did not appear to
   respond to fluids in the ED. He does have a bandemia of 33% and an
   increased lactate of 3.5.  Admitted to ICU w norepinephrine.  CVP=9.
   - titrate off pressors, goal MAP >65
   - IVF boluses as needed for BP
   - check central venous O2sat w next ABG/VBG
   - start linezolid, zosyn for now to broadly cover organisms he has
   grown out in past
   - consult ID in AM regarding complicated hx of multiple organisms w
   strong resistance patterns
   - holding home metoprolol
   .
   # CML s/p BMT, Chronic GVHD, immunosuppression:
   Chronic Abdominal pain. needs stress dose steroids, but consider he
   needs to fight infection and should not be further suppressed w
   steroids.
   - IV methylpredisolone Q8h
   - trend LFTs
   - cont cellcept
   - cont bactrim, acyclovir, voriconazole for prophylaxis
   .
   # Troponin Leak:
   Trop in ED was elevated to 0.66. EKG did not show any changes (inferior
   lead non-specific Twave changes were in previous EKGs), and CK & CK-MB
   were normal. Repeat trop 0.26. Not likely to be an ACS. [**Month (only) 60**] have had
   some demand ischemia related to hypotension.
   - repeat EKG in AM
   .
   # Diarrhea:
   Pt has had multiple recent hospitalizations on strong antibiotics, and
   he was just discharged from Rehab prior to this admission. He is on
   multiple antibiotics for his home prophylactic regimen as well. Likely
   has an antibiotic-associated diarrhea.  [**Month (only) 60**] also have a GVHD-associated
   diarrhea.
   - check C. diff
   - cont to monitor
   .
   # Hx of PE, DVT:
   Has hx of multiple PEs in [**2122**] and DVT in early [**2123**]. Needs chronic
   anticoagulation.
   - Continue on home dose of lovenox , 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace?
   - pain control w fentanyl patches and has IV fentanyl for sedation on
   Vent
   - have held some of his home pain meds (e.g., methadone), which should
   be added back when he is no longer on sedation
   .
   # hx of GERD
   - Lansoprazole via NG tube
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-08-30 10:52:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:   58  M w/ CML s/p allo- SCT, GVHD liver, GI track, and presumed
   from lung (O2 dep BO), multiple recent admission for resistant resp
   infections (esbl e coli, stenotroph, PSA) and plugging, poor secretion
   clearance, d/cd from rehab yesterday, presents with resp
   failure/hypoxemia.
   In ED: CXR with LLL opacity. Labs with bandemeia 32%, given vanco,
   zosyn, cipro.  Intubated.. Hypotensive, unresponsive to IVF with CVL
   and norepi started.  Received stress steroids.
   In ICU: pressor weaned off.  FIO2 weaned to 50%, bronch performed with
   cxs sent. Minimal secretions noted. Antibx switched to linezolid, zosyn
   in conjunction with ID input.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2124-8-29**] 07:00 PM
 MULTI LUMEN - START [**2124-8-29**] 07:04 PM
 SPUTUM CULTURE - At [**2124-8-29**] 11:00 PM
 BRONCHOSCOPY - At [**2124-8-29**] 11:29 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-8-29**] 08:23 PM
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Linezolid - [**2124-8-29**] 10:36 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-29**] 08:36 PM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-30**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 62 (49 - 62) bpm
   BP: 115/64(75) {83/51(58) - 163/85(102)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 12 (6 - 12)mmHg
   Total In:
                                                                  1,746 mL
                                                                    112 mL
   PO:
   TF:
   IVF:
                                                                  1,746 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    545 mL
   Urine:
                                                                    140 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,406 mL
                                                                   -433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 509 (410 - 509) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   Compliance: 125 cmH2O/mL
   SpO2: 95%
   ABG: 7.33/60/110/32/4
   Ve: 8.3 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: No acute distress, chronically ill appearing easily
   arousable on vent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear but very distant : ,
   Diminished: bases)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: mild, diffuse
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm / skin breakdown/wheeping/brusiing, tears
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   181 K/uL
   177 mg/dL
   0.8 mg/dL
   32 mEq/L
   5.2 mEq/L
   21 mg/dL
   104 mEq/L
   141 mEq/L
   27.1 %
   7.9 K/uL
         [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
   WBC
   7.9
   Hct
   27.1
   Plt
   181
   Cr
   0.8
   TropT
   0.26
   0.19
   TCO2
   30
   33
   Glucose
   177
   Other labs: CK / CKMB / Troponin-T:30/7/0.19, ALT / AST:70/52, Alk Phos
   / T Bili:437/0.2, Differential-Neuts:95.8 %, Lymph:1.5 %, Mono:2.3 %,
   Eos:0.1 %, LDH:263 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: trop 0.66--> 0.19, ck flat
   lactate 3.5
   Imaging: cxr--> some improvement in l base colalpse, though continues
   to have LLL atelectasis/collapse, ? sm l eff, bronchietatic chnages, et
   and rij in position
   Assessment and Plan
   58  M w/ CML s/p allo- SCT, GVHD liver, GI track, and presumed lung (O2
   dep BO), multiple recent admission for resistant resp infections and
   poor secretion clearance,  presents with:
   # Resp failure-- appears most-likely [**12-20**] plugging, pna given chronic
   GVHD of lung with sig bronchietasis and poor secretion clearance. We
   have low suspicion for chf, pe to explain his resp failure and
   presentation.  S/p bronch with cx
s sent and with minimal airway
   secretions.   His new volume loss at L base appears improved after
   intubation and bronch though he continues to have some chronic LLL
   collapse and probably small effusion at the L base.
        Will pursue CT chest to eval further.  We continue broad empiric
   antibx given hx of resistant bugs with help from ID team guiding
   coverage.  Would, continue aggressive chest pt, pulm toilet, sx and
   nebs.  He is still on a lot of peep 910).  Will assess on decreased
   peep, to move toward extubation.
   # Hypotension - suspect related to infection and peri-intubation
   sedation and also some intravascular depletion given diarrhea.
   Received IVF and pressors now off.  Will recheck lactate level and
   follow cvps and urine outpt.  Continue stress steroids for now,
   tapering back to home dose in next 48 hrs.
   # CML/allo-SCT/GVHD - continue outpatient regimen of immunosuppression
   aside from increased steroids briefly, continue prophylactic regimen.
   Additonal bmt input.
   # Elevated troponin - improving, no acute changes on ecg.  Suspect 2/2d
   emand ischemia related to sepsis.
   # Diarrhea
 chronic, suspect related to GVHD, check C diff cx
s given
   frequent antibx.
   # h/o DVT/PE - continue lovenox
   # Elevated LFTs
 trending to baseline, follow, likely GVHD, has had
   frequent imaging.
   # Chronic pain/vertebral fractures:  appears comfortable. continue fent
   patch, lido patch along with drip sedation
   ICU Care
   Nutrition:  start TFs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50

2124-08-30 10:52:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo M CML s/p auto SCT, GVHD liver, GI track, and presumed from lung
   (O2 dep BO), recent admission related to  resistent pna (esbl e coli,
   stenotroph, PSA) and plugging, poor secretion clearance, d/cd from
   rehab yesterday, presents with resp failure/hypoxemia.
   In ED: Labs with bandemeia 32%, given vanco, zosyn, cipro in ed.
   Intubated for hypoxemia, fatiguin. Hypotensive, unresponsive to IVF
   with CVL and norepi started.  trop 0.66 without acute ECG changes.
   Received stress steroids.
   In ICU: levophed weaned off. fio2 weaned to 50%, bronch performed with
   ET cxs sent. antibx switched to linezolid, zosyn in conjunction with ID
   input
   24 Hour Events:
 INVASIVE VENTILATION - START [**2124-8-29**] 07:00 PM
 MULTI LUMEN - START [**2124-8-29**] 07:04 PM
 SPUTUM CULTURE - At [**2124-8-29**] 11:00 PM
 BRONCHOSCOPY - At [**2124-8-29**] 11:29 PM
   changed to PS this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-8-29**] 08:23 PM
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Linezolid - [**2124-8-29**] 10:36 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-29**] 08:36 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-30**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 62 (49 - 62) bpm
   BP: 115/64(75) {83/51(58) - 163/85(102)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 12 (6 - 12)mmHg
   Total In:
                                                                  1,746 mL
                                                                    112 mL
   PO:
   TF:
   IVF:
                                                                  1,746 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    545 mL
   Urine:
                                                                    140 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,406 mL
                                                                   -433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 509 (410 - 509) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   Compliance: 125 cmH2O/mL
   SpO2: 95%
   ABG: 7.33/60/110/32/4
   Ve: 8.3 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: No acute distress, chronically ill appearing easily
   arousable on vent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: mild, diffuse
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm / skin breakdown/wheeping/brusiing, tears
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   181 K/uL
   177 mg/dL
   0.8 mg/dL
   32 mEq/L
   5.2 mEq/L
   21 mg/dL
   104 mEq/L
   141 mEq/L
   27.1 %
   7.9 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
   WBC
   7.9
   Hct
   27.1
   Plt
   181
   Cr
   0.8
   TropT
   0.26
   0.19
   TCO2
   30
   33
   Glucose
   177
   Other labs: CK / CKMB / Troponin-T:30/7/0.19, ALT / AST:70/52, Alk Phos
   / T Bili:437/0.2, Differential-Neuts:95.8 %, Lymph:1.5 %, Mono:2.3 %,
   Eos:0.1 %, LDH:263 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: trop 0.66--> 0.19, ck flat
   lactate 3.5
   Imaging: cxr--> some improvement in l base colalpse, though continues
   to have LLL atelectasis/collapse, ? sm l eff, bronchietatic chnages, et
   and rij in position
   Assessment and Plan
   Resp failure appears most-likely [**12-20**] plugging, pna given chronic GVHD
   of lung with sig bronchietasis and secretion clearance. His
   new/worsening volume loss at L base is slightly improved after
   intuabtion and bronch though he continues to have some chronic LLL
   copllapse.  Would pursue CT chest to eval further.  Continue btoad
   antibx given hx of resiteant bugs with help from ID rteam guiding
   empiric coverage.  S/p bronch with smaples sent and with minimal airway
   secretions.  Would assess on slightly lower peep, continue aggressive
   chest pt, pulm toilet, sx and nebs. Continuie with low suspicion for
   chf, pe to expolain his resp failure and presentation.  Will check
   chest CT.  and work toward extuabtion.
   Hypotension - suspect related to infection and peri-intubation sedation
   and also some intravascualr depetion with diarrhea.  Received IVF and
   pressors now off.  Will recheck lactate level and follow cvps and urine
   outpt.  Continue stress steroids for now, liekly tapering back to home
   dose in next 48 hrs.
   CML/allo-SCT/GVHD - continue outpatient regimen of immunosuppression
   though will increase steroids briefly, continue prophylactic regimen.
   Elevated troponin - improving, unclear significance, no acute changes.
   Suspect some demand ischmeia related to sepsis.
   Diarrhea
 chronic, suspect related to GVHD, check Cdiff cx
s given
   freuqnet antibx.
   h/o DVT/PE - continue lovenox
   Elevated LFTs
 trending to baseline, follow, likely GVHD, has had
   freuqnt imaging.
   Chronic pain/vertebral fractures:  frent patch, lido patch
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50

2124-08-31 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - will add fungal cultures per ID and continue on current coverage.
   - CT: LLL infiltrate... possibly PNA, but has had this before, may be
   part of his bronchiectasis
   - lactate normal at 0.8
   - Patient doing well on PS 5/5. will do sbt at 0500 and likely extubate
   tomorrow.
   -RSBI on 5/0 was 25, will do an SBT early in the morning
   - HCT since admission: 27.1
24.9
26.4
23.9- will recheck in the
   afternoon, patient has active type and cross
   - bleeding line site stabilized with pressure dressings
   - c. diff pending, but patient has not had BM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-8-29**] 08:23 PM
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-8-30**] 11:23 PM
   Linezolid - [**2124-8-30**] 11:50 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt. c/o baseline abdominal pain, no other pain
   Flowsheet Data as of  [**2124-8-31**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 70 (53 - 77) bpm
   BP: 109/60(71) {103/54(66) - 161/139(144)} mmHg
   RR: 15 (8 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
   Height: 62 Inch
    CVP: 4 (4 - 14)mmHg
   Total In:
                                                                  1,719 mL
                                                                     72 mL
   PO:
   TF:
   IVF:
                                                                  1,449 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    320 mL
   Urine:
                                                                  1,240 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    479 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 640 (496 - 763) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 8.4 L/min
   Physical Examination
   General: responsive to verbal commands, awake, can answer yes/no
   questions, no acute distress
   HEENT: intubated, pupils equal and reactive
   Neck: RIJ in place, no longer bleeding from the site ;  pressure
   dressing intact over previous attempt at subclavian line
   Lungs: Coarse BS b/l with diminished sounds at L base
   CV: soft heart sounds, RRR no m/r/g.
   Abdomen: soft, diffuse tenderness without rebound/guarding, mildly
   distended, bowel sounds present
   Ext: ecchymotic, 3+ LE pitting edema, weeping; has some erythema on
   lower anterior legs L>R . Warm with 2+ pulses; toes warm.
   Skin: very thin and delicate; has skin tears ; dark ecchymoses right
   shoulder and upper chest, diffuse erythema with improvement in the
   weeping from yesterday, no longer oozing
   Labs / Radiology
   169 K/uL
   7.9 g/dL
   127 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   23.9 %
   7.6 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
                            [**2124-8-30**]  04:28 PM
                            [**2124-8-30**]  10:33 PM
                            [**2124-8-31**]  03:04 AM
   WBC
   7.9
   8.6
   7.6
   Hct
   27.1
   24.9
   26.4
   23.9
   Plt
   181
   201
   169
   Cr
   0.8
   0.6
   TropT
   0.26
   0.19
   TCO2
   30
   33
   Glucose
   177
   127
   Other labs:
   Ca: 8.2, Mg: 1.7, Phos: 2.8
   Lactate: 0.8
   Microbiology:
   Urine Cx: mixed skin flora
   Sputum Cx: mixed flora c/w oropharyngeal flora
   Imaging:
   CT Chest ([**8-30**]): IMPRESSION: 1. New left lower lobe opacification,
   which could be secondary to infectious pneumonia and/or atelectasis.
   2. Resolution of right upper lobe consolidation.
   3. Stable bilateral cylindrical bronchiectasis and centrilobular
   emphysema.
   4. Stable extent of multiple vertebral compression fractures, sternal
   fracture, and rib fractures.
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression, w recent hospitalizations for his
   bronchiolitis obliterans and for resistant pseudomonal infections,
   presenting w respiratory distress and hypotension.
   .
   # Hypoxic Respiratory Failure:
   Likely secondary to pneumonia in the setting of his chronic lung
   disease.  He would be likely to have mucus plugging but Bronch didn
   show any significant secretions or mucus plugging, but he had been
   suctioned aggressively prior to bronch.  Could also be related to
   worsening of his bronchiectasis and bronchiolitis obliterans.
   - Pt doing well on PS of [**3-21**], RSBI on 5/0 was 25, will attempt SBT this
   morning for possible extubation
   - Broad-spectrum coverage w zosyn and linezolid for now to cover
   multiple organisms w various drug resistance patterns, will complete a
   10 day course for presumed HAP
today is day [**12-28**]
   - f/u fungal markers
   - ID following, appreciate recs
   - Chest CT concerning for LLL PNA vs. bronchiectasis/atelectasis, has
   had similar appearances on prior CT
   - F/U C.diff once patient has a BM, if diarrhea worsens will
   empirically start patient on po Vancomycin pending C.diff results
   - F/U repeat sputum cx, and blood cx
   .
   # Hypotension:
   Likely secondary to sepsis because patient's BP did not appear to
   respond to fluids in the ED, and he presented w bandemia of 33% lactate
   of 3.5.  Has remained off pressors and has had good urine output,
   between 40-60cc/hr.
   - Lactate has normalized at 0.8, bandemia has resolved with abx
   treatment
   - IVF boluses as needed for BP and urine output
   - continue linezolid, zosyn for now to broadly cover organisms he has
   grown out in past, day [**12-28**]
   - Low threshold for empiric po Vancomycin for worsening diarrhea
   - holding home metoprolol
   .
   # CML s/p allo SCT, Chronic GVHD of lung/liver/GI tract,
   immunosuppression: started stress dose steroids will continue while he
   is intubated, but will discontinue on extubation, and resumed home dose
   - IV methylpredisolone Q8h
   - continue sliding scale insulin with increased steroid dose
   - trend LFTs
   - cont cellcept
   - cont bactrim, acyclovir, voriconazole for prophylaxis
   .
   # Troponin Leak:
   Trop in ED was elevated to 0.66 and trended down, but CK and CK-MB were
   normal.  Likely to have been related to demand ischemia in the setting
   of hypotension.
   - troponins trended down to 0.19, and his CK  and index remained normal
   throughout his course
   - continue to monitor
   .
   # Diarrhea:  Pt. with GVHD in GI, recent abx use both for recent
   infection and continued home doses for ppx
   - Per ID could also be related to cytokine GI hypermobility with the
   start of his pneumonia, the improvement in diarrhea with antibiotic
   treatment for pneumonia also argues that this is the case
   - Send c.diff once patient has a BM, if diarrhea worsens will
   empirically start po vanco pending C.diff results
   .
   # Hx of PE, DVT:
   Has hx of multiple PEs in [**2122**] and DVT in early [**2123**]. Needs chronic
   anticoagulation.
   - Continue on home dose of lovenox , 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace from home
   - pain control w fentanyl and lidocaine patches and has IV fentanyl for
   sedation on [**Last Name (LF) **], [**First Name3 (LF) 178**] restart po meds post extubation
   .
   # hx of GERD
   - Lansoprazole via NG tube
   ICU Care
   Nutrition: NPO while patient is intubated, will advance diet post
   extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: therapeutic lovenox
   Stress ulcer: lansoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments: Patient, sister
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2124-08-31 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - will add fungal markers per ID and continue on current coverage.
   - CT: LLL infiltrate... possibly PNA, but has had this before, may be
   part of his bronchiectasis
   - lactate normal at 0.8
   - Patient doing well on PS 5/5. will do sbt at 0500 and likely extubate
   today
   -RSBI on 5/0 was 25, will do an SBT early in the morning
   - HCT since admission: 27.1
24.9
26.4
23.9- will recheck in the
   afternoon, patient has active type and cross
   - bleeding line site stabilized with pressure dressings
   - c. diff pending, but patient has not had BM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-8-29**] 08:23 PM
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-8-30**] 11:23 PM
   Linezolid - [**2124-8-30**] 11:50 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt. c/o baseline abdominal pain, no other pain
   Flowsheet Data as of  [**2124-8-31**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 70 (53 - 77) bpm
   BP: 109/60(71) {103/54(66) - 161/139(144)} mmHg
   RR: 15 (8 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
   Height: 62 Inch
    CVP: 4 (4 - 14)mmHg
   Total In:
                                                                  1,719 mL
                                                                     72 mL
   PO:
   TF:
   IVF:
                                                                  1,449 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    320 mL
   Urine:
                                                                  1,240 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    479 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 640 (496 - 763) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 8.4 L/min
   Physical Examination
   General: responsive to verbal commands, awake, can answer yes/no
   questions, no acute distress
   HEENT: intubated, pupils equal and reactive
   Neck: RIJ in place, no longer bleeding from the site ;  pressure
   dressing intact over previous attempt at subclavian line
   Lungs: Coarse BS b/l with diminished sounds at L base
   CV: soft heart sounds, RRR no m/r/g.
   Abdomen: soft, diffuse tenderness without rebound/guarding, mildly
   distended, bowel sounds present
   Ext: ecchymotic, 3+ LE pitting edema, weeping; has some erythema on
   lower anterior legs L>R . Warm with 2+ pulses; toes warm.
   Skin: very thin and delicate; has skin tears ; dark ecchymoses right
   shoulder and upper chest, diffuse erythema with improvement in the
   weeping from yesterday, no longer oozing
   Labs / Radiology
   169 K/uL
   7.9 g/dL
   127 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   23.9 %
   7.6 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
                            [**2124-8-30**]  04:28 PM
                            [**2124-8-30**]  10:33 PM
                            [**2124-8-31**]  03:04 AM
   WBC
   7.9
   8.6
   7.6
   Hct
   27.1
   24.9
   26.4
   23.9
   Plt
   181
   201
   169
   Cr
   0.8
   0.6
   TropT
   0.26
   0.19
   TCO2
   30
   33
   Glucose
   177
   127
   Other labs:
   Ca: 8.2, Mg: 1.7, Phos: 2.8
   Lactate: 0.8
   Microbiology:
   Urine Cx: mixed skin flora
   Sputum Cx: mixed flora c/w oropharyngeal flora
   Imaging:
   CT Chest ([**8-30**]): IMPRESSION: 1. New left lower lobe opacification,
   which could be secondary to infectious pneumonia and/or atelectasis.
   2. Resolution of right upper lobe consolidation.
   3. Stable bilateral cylindrical bronchiectasis and centrilobular
   emphysema.
   4. Stable extent of multiple vertebral compression fractures, sternal
   fracture, and rib fractures.
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression, w recent hospitalizations for his
   bronchiolitis obliterans and for resistant pseudomonal infections,
   presenting w respiratory distress and hypotension.
   .
   # Hypoxic Respiratory Failure:
   Likely secondary to pneumonia in the setting of his chronic lung
   disease.  He would be likely to have mucus plugging but Bronch didn
   show any significant secretions or mucus plugging, but he had been
   suctioned aggressively prior to bronch.  Could also be related to
   worsening of his bronchiectasis and bronchiolitis obliterans.
   - Pt doing well on PS of [**3-21**], RSBI on 5/0 was 25, will attempt SBT this
   morning for possible extubation
   - Broad-spectrum coverage w zosyn and linezolid for now to cover
   multiple organisms w various drug resistance patterns, will complete a
   10 day course for presumed HAP
today is day [**12-28**]
   - f/u fungal markers
   - ID following, appreciate recs
   - Chest CT concerning for LLL PNA vs. bronchiectasis/atelectasis, has
   had similar appearances on prior CT
   - F/U C.diff once patient has a BM, if diarrhea worsens will
   empirically start patient on po Vancomycin pending C.diff results
   - F/U repeat sputum cx, and blood cx
   .
   # Hypotension:
   Likely secondary to sepsis because patient's BP did not appear to
   respond to fluids in the ED, and he presented w bandemia of 33% lactate
   of 3.5.  Has remained off pressors and has had good urine output,
   between 40-60cc/hr.
   - Lactate has normalized at 0.8, bandemia has resolved with abx
   treatment
   - IVF boluses as needed for BP and urine output
   - continue linezolid, zosyn for now to broadly cover organisms he has
   grown out in past, day [**12-28**]
   - Low threshold for empiric po Vancomycin for worsening diarrhea
   - holding home metoprolol
   .
   # CML s/p allo SCT, Chronic GVHD of lung/liver/GI tract,
   immunosuppression: started stress dose steroids will continue while he
   is intubated, but will discontinue on extubation, and resumed home dose
   - IV methylpredisolone Q8h
   - continue sliding scale insulin with increased steroid dose
   - trend LFTs
   - cont cellcept
   - cont bactrim, acyclovir, voriconazole for prophylaxis
   .
   # Troponin Leak:
   Trop in ED was elevated to 0.66 and trended down, but CK and CK-MB were
   normal.  Likely to have been related to demand ischemia in the setting
   of hypotension.
   - troponins trended down to 0.19, and his CK  and index remained normal
   throughout his course
   - continue to monitor
   .
   # Diarrhea:  Pt. with GVHD in GI, recent abx use both for recent
   infection and continued home doses for ppx
   - Per ID could also be related to cytokine GI hypermobility with the
   start of his pneumonia, the improvement in diarrhea with antibiotic
   treatment for pneumonia also argues that this is the case
   - Send c.diff once patient has a BM, if diarrhea worsens will
   empirically start po vanco pending C.diff results
   .
   # Hx of PE, DVT:
   Has hx of multiple PEs in [**2122**] and DVT in early [**2123**]. Needs chronic
   anticoagulation.
   - Continue on home dose of lovenox , 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace from home
   - pain control w fentanyl and lidocaine patches and has IV fentanyl for
   sedation on [**Last Name (LF) **], [**First Name3 (LF) 178**] restart po meds post extubation
   .
   # hx of GERD
   - Lansoprazole via NG tube
   ICU Care
   Nutrition: NPO while patient is intubated, will advance diet post
   extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: therapeutic lovenox
   Stress ulcer: lansoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments: Patient, sister
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2124-08-31 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - will add fungal cultures per ID and continue on current coverage.
   - CT: LLL infiltrate... possibly PNA, but has had this before, may be
   part of his bronchiectasis
   - lactate normal at 0.8
   - Patient doing well on PS 5/5. will do sbt at 0500 and likely extubate
   tomorrow.
   -RSBI on 5/0 was 25, will do an SBT early in the morning
   - HCT since admission: 27.1
24.9
26.4
23.9- will recheck in the
   afternoon, patient has active type and cross
   - bleeding line site stabilized with pressure dressings
   - c. diff pending, but patient has not had BM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-8-29**] 08:23 PM
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-8-30**] 11:23 PM
   Linezolid - [**2124-8-30**] 11:50 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-31**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 70 (53 - 77) bpm
   BP: 109/60(71) {103/54(66) - 161/139(144)} mmHg
   RR: 15 (8 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
   Height: 62 Inch
    CVP: 4 (4 - 14)mmHg
   Total In:
                                                                  1,719 mL
                                                                     72 mL
   PO:
   TF:
   IVF:
                                                                  1,449 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    320 mL
   Urine:
                                                                  1,240 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    479 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 640 (496 - 763) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 8.4 L/min
   Physical Examination
   General: responsive to verbal commands, no acute distress
   HEENT: intubated, pupils equal and reactive
   Neck: RIJ in place, no longer bleeding from the site ;  bleeding also
   from right subclavian site where it appears another central line had
   been attempted previously
   Lungs: Coarse BS b/l with diminished sounds at L base
   CV: soft heart sounds, RRR no m/r/g.
   Abdomen: soft, diffuse tenderness without rebound/guarding, mildly
   distended, bowel sounds present
   Ext: ecchymotic, 3+ LE pitting edema, weeping; has some erythema on
   lower anterior legs L>R . Warm with 2+ pulses; toes almost
   cyanotic-appearing but warm.
   Skin: very thin and delicate; has skin tears ; dark ecchymoses right
   shoulder and upper chest
   Labs / Radiology
   169 K/uL
   7.9 g/dL
   127 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   23.9 %
   7.6 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
                            [**2124-8-30**]  04:28 PM
                            [**2124-8-30**]  10:33 PM
                            [**2124-8-31**]  03:04 AM
   WBC
   7.9
   8.6
   7.6
   Hct
   27.1
   24.9
   26.4
   23.9
   Plt
   181
   201
   169
   Cr
   0.8
   0.6
   TropT
   0.26
   0.19
   TCO2
   30
   33
   Glucose
   177
   127
   Other labs:
   Ca: 8.2, Mg: 1.7, Phos: 2.8
   Lactate: 0.8
   Microbiology:
   Urine Cx: mixed skin flora
   Sputum Cx: mixed flora c/w oropharyngeal flora
   Imaging:
   CT Chest ([**8-30**]): IMPRESSION: 1. New left lower lobe opacification,
   which could be secondary to infectious pneumonia and/or atelectasis.
   2. Resolution of right upper lobe consolidation.
   3. Stable bilateral cylindrical bronchiectasis and centrilobular
   emphysema.
   4. Stable extent of multiple vertebral compression fractures, sternal
   fracture, and rib fractures.
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression, w recent hospitalizations for his
   bronchiolitis obliterans and for resistant pseudomonal infections,
   presenting w respiratory distress and hypotension.
   .
   # Hypoxic Respiratory Failure:
   Likely secondary to pneumonia in the setting of his chronic lung
   disease.  He would be likely to have mucus plugging but Bronch didn
   show any significant secretions or mucus plugging, but he had been
   suctioned aggressively prior to bronch.  Could also be related to
   worsening of his bronchiectasis and bronchiolitis obliterans.
   - Pt doing well on PS of [**3-21**], RSBI on 5/0 was 25, will attempt SBT this
   morning for possible extubation
   - Broad-spectrum coverage w zosyn and linezolid for now to cover
   multiple organisms w various drug resistance patterns, will complete a
   10 day course for presumed HAP
today is day [**12-28**]
   - f/u fungal markers
   - ID following, appreciate recs
   - Chest CT concerning for LLL PNA vs. bronchiectasis/atelectasis, has
   had similar appearances on prior CT
   - F/U C.diff once patient has a BM, if diarrhea worsens will
   empirically start patient on po Vancomycin pending C.diff results
   - F/U repeat sputum cx, and blood cx
   .
   # Hypotension:
   Likely secondary to sepsis because patient's BP did not appear to
   respond to fluids in the ED, and he presented w bandemia of 33% lactate
   of 3.5.  Has remained off pressors and has had good urine output,
   between 40-60cc/hr.
   - Lactate has normalized at 0.8, bandemia has resolved with abx
   treatment
   - IVF boluses as needed for BP and urine output
   - continue linezolid, zosyn for now to broadly cover organisms he has
   grown out in past, day [**12-28**]
   - Low threshold for empiric po Vancomycin for worsening diarrhea
   - holding home metoprolol
   .
   # CML s/p allo SCT, Chronic GVHD of lung/liver/GI tract,
   immunosuppression: started stress dose steroids will continue while he
   is intubated, but will discontinue on extubation, and resumed home dose
   - IV methylpredisolone Q8h
   - continue sliding scale insulin with increased steroid dose
   - trend LFTs
   - cont cellcept
   - cont bactrim, acyclovir, voriconazole for prophylaxis
   .
   # Troponin Leak:
   Trop in ED was elevated to 0.66 and trended down, but CK and CK-MB were
   normal.  Likely to have been related to demand ischemia in the setting
   of hypotension.
   - troponins trended down to 0.19, and his CK  and index remained normal
   throughout his course
   - continue to monitor
   .
   # Diarrhea:  Pt. with GVHD in GI, recent abx use both for recent
   infection and continued home doses for ppx
   - Per ID could also be related to cytokine GI hypermobility with the
   start of his pneumonia, the improvement in diarrhea with antibiotic
   treatment for pneumonia also argues that this is the case
   - Send c.diff once patient has a BM, if diarrhea worsens will
   empirically start po vanco pending C.diff results
   .
   # Hx of PE, DVT:
   Has hx of multiple PEs in [**2122**] and DVT in early [**2123**]. Needs chronic
   anticoagulation.
   - Continue on home dose of lovenox , 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace from home
   - pain control w fentanyl and lidocaine patches and has IV fentanyl for
   sedation on [**Last Name (LF) **], [**First Name3 (LF) 178**] restart po meds post extubation
   .
   # hx of GERD
   - Lansoprazole via NG tube
   ICU Care
   Nutrition: NPO while patient is intubated, will advance diet post
   extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: lansoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments: Patient, sister
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2124-08-31 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - will add fungal markers per ID and continue on current coverage.
   - CT: LLL infiltrate... possibly PNA, but has had this before, may be
   part of his bronchiectasis
   - lactate normal at 0.8
   - Patient doing well on PS 5/5. will do sbt at 0500 and likely extubate
   today
   -RSBI on 5/0 was 25, will do an SBT early in the morning
   - HCT since admission: 27.1
24.9
26.4
23.9- will recheck in the
   afternoon, patient has active type and cross
   - bleeding line site stabilized with pressure dressings
   - c. diff pending, but patient has not had BM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-8-29**] 08:23 PM
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-8-30**] 11:23 PM
   Linezolid - [**2124-8-30**] 11:50 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt. c/o baseline abdominal pain, no other pain
   Flowsheet Data as of  [**2124-8-31**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 70 (53 - 77) bpm
   BP: 109/60(71) {103/54(66) - 161/139(144)} mmHg
   RR: 15 (8 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
   Height: 62 Inch
    CVP: 4 (4 - 14)mmHg
   Total In:
                                                                  1,719 mL
                                                                     72 mL
   PO:
   TF:
   IVF:
                                                                  1,449 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    320 mL
   Urine:
                                                                  1,240 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    479 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 640 (496 - 763) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 8.4 L/min
   Physical Examination
   General: responsive to verbal commands, awake, can answer yes/no
   questions, no acute distress
   HEENT: intubated, pupils equal and reactive
   Neck: RIJ in place, no longer bleeding from the site ;  pressure
   dressing intact over previous attempt at subclavian line
   Lungs: Coarse BS b/l with diminished sounds at L base
   CV: soft heart sounds, RRR no m/r/g.
   Abdomen: soft, diffuse tenderness without rebound/guarding, mildly
   distended, bowel sounds present
   Ext: ecchymotic, 3+ LE pitting edema, weeping; has some erythema on
   lower anterior legs L>R . Warm with 2+ pulses; toes warm.
   Skin: very thin and delicate; has skin tears ; dark ecchymoses right
   shoulder and upper chest, diffuse erythema with improvement in the
   weeping from yesterday, no longer oozing
   Labs / Radiology
   169 K/uL
   7.9 g/dL
   127 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   23.9 %
   7.6 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
                            [**2124-8-30**]  04:28 PM
                            [**2124-8-30**]  10:33 PM
                            [**2124-8-31**]  03:04 AM
   WBC
   7.9
   8.6
   7.6
   Hct
   27.1
   24.9
   26.4
   23.9
   Plt
   181
   201
   169
   Cr
   0.8
   0.6
   TropT
   0.26
   0.19
   TCO2
   30
   33
   Glucose
   177
   127
   Other labs:
   Ca: 8.2, Mg: 1.7, Phos: 2.8
   Lactate: 0.8
   Microbiology:
   Urine Cx: mixed skin flora
   Sputum Cx: mixed flora c/w oropharyngeal flora
   Imaging:
   CT Chest ([**8-30**]): IMPRESSION: 1. New left lower lobe opacification,
   which could be secondary to infectious pneumonia and/or atelectasis.
   2. Resolution of right upper lobe consolidation.
   3. Stable bilateral cylindrical bronchiectasis and centrilobular
   emphysema.
   4. Stable extent of multiple vertebral compression fractures, sternal
   fracture, and rib fractures.
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression, w recent hospitalizations for his
   bronchiolitis obliterans and for resistant pseudomonal infections,
   presenting w respiratory distress and hypotension.
   .
   # Hypoxic Respiratory Failure:
   Likely secondary to pneumonia in the setting of his chronic lung
   disease.  He would be likely to have mucus plugging but Bronch didn
   show any significant secretions or mucus plugging, but he had been
   suctioned aggressively prior to bronch.  Could also be related to
   worsening of his bronchiectasis and bronchiolitis obliterans.
   - Pt doing well on PS of [**3-21**], RSBI on 5/0 was 25, will attempt SBT this
   morning for possible extubation
   - Broad-spectrum coverage w zosyn and linezolid for now to cover
   multiple organisms w various drug resistance patterns, will complete a
   10 day course for presumed HAP
today is day [**12-28**]
   - f/u fungal markers
   - ID following, appreciate recs
   - Chest CT concerning for LLL PNA vs. bronchiectasis/atelectasis, has
   had similar appearances on prior CT
   - F/U C.diff once patient has a BM, if diarrhea worsens will
   empirically start patient on po Vancomycin pending C.diff results
   - F/U repeat sputum cx, and blood cx
   .
   # Hypotension:
   Likely secondary to sepsis because patient's BP did not appear to
   respond to fluids in the ED, and he presented w bandemia of 33% lactate
   of 3.5.  Has remained off pressors and has had good urine output,
   between 40-60cc/hr.
   - Lactate has normalized at 0.8, bandemia has resolved with abx
   treatment
   - IVF boluses as needed for BP and urine output
   - continue linezolid, zosyn for now to broadly cover organisms he has
   grown out in past, day [**12-28**]
   - Low threshold for empiric po Vancomycin for worsening diarrhea
   - holding home metoprolol for now
   .
   # CML s/p allo SCT, Chronic GVHD of lung/liver/GI tract,
   immunosuppression: started stress dose steroids will continue while he
   is intubated, but will discontinue on extubation, and resumed home dose
   - restart home steroid dose post extubation
   - continue sliding scale insulin with increased steroid dose
   - trend LFTs
   - cont cellcept
   - cont bactrim, acyclovir, voriconazole for prophylaxis
   .
   # Troponin Leak:
   Trop in ED was elevated to 0.66 and trended down, but CK and CK-MB were
   normal.  Likely to have been related to demand ischemia in the setting
   of hypotension.
   - troponins trended down to 0.19, and his CK  and index remained normal
   throughout his course
   - continue to monitor
   .
   # Diarrhea:  Pt. with GVHD in GI, recent abx use both for recent
   infection and continued home doses for ppx
   - Per ID could also be related to cytokine GI hypermobility with the
   start of his pneumonia, the improvement in diarrhea with antibiotic
   treatment for pneumonia also argues that this is the case
   - Send c.diff once patient has a BM, if diarrhea worsens will
   empirically start po vanco pending C.diff results
   - will restart a GVHD diet to help decrease diarrhea
   .
   # Hx of PE, DVT:
   Has hx of multiple PEs in [**2122**] and DVT in early [**2123**]. Needs chronic
   anticoagulation.
   - Continue on home dose of lovenox , 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace from home
   - pain control w fentanyl and lidocaine patches and has IV fentanyl for
   sedation on [**Last Name (LF) **], [**First Name3 (LF) 178**] restart po meds post extubation
   .
   # hx of GERD
   - Lansoprazole via NG tube, will change to po once extubated
   ICU Care
   Nutrition: NPO while patient is intubated, will advance diet post
   extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: therapeutic lovenox
   Stress ulcer: lansoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments: Patient, sister
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2124-08-31 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - will add fungal cultures per ID and continue on current coverage.
   - CT: LLL infiltrate... possibly PNA, but has had this before, may be
   part of his bronchiectasis
   - lactate normal at 0.8
   - Patient doing well on PS 5/5. will do sbt at 0500 and likely extubate
   tomorrow.
   -RSBI on 5/0 was 25, will do an SBT early in the morning
   - HCT since admission: 27.1
24.9
26.4
23.9- will recheck in the
   afternoon
   - bleeding line site stabilized with pressure dressings
   - c. diff pending...no bowel movement today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-8-29**] 08:23 PM
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-8-30**] 11:23 PM
   Linezolid - [**2124-8-30**] 11:50 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-31**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 70 (53 - 77) bpm
   BP: 109/60(71) {103/54(66) - 161/139(144)} mmHg
   RR: 15 (8 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
   Height: 62 Inch
    CVP: 4 (4 - 14)mmHg
   Total In:
                                                                  1,719 mL
                                                                     72 mL
   PO:
   TF:
   IVF:
                                                                  1,449 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    320 mL
   Urine:
                                                                  1,240 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    479 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 640 (496 - 763) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 8.4 L/min
   Physical Examination
   General: responsive to verbal commands, no acute distress
   HEENT: intubated, pupils equal and reactive
   Neck: RIJ in place, bleeding significantly from the site ;  bleeding
   also from right subclavian site where it appears another central line
   had been attempted previously
   Lungs: Coarse BS bilat with diminished sounds at L base
   CV: soft heart sounds, RRR no m/r/g.
   Abdomen: soft, diffuse tenderness without rebound/guarding, mildly
   distended, bowel sounds present
   Ext: ecchymotic, 3+ LE pitting edema, weeping; has some erythema on
   lower anterior legs L>R . Warm with 2+ pulses; toes almost
   cyanotic-appearing but warm.
   Skin: very thin and delicate; has skin tears ; dark ecchymoses right
   shoulder and upper chest
   Labs / Radiology
   169 K/uL
   7.9 g/dL
   127 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   23.9 %
   7.6 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
                            [**2124-8-30**]  04:28 PM
                            [**2124-8-30**]  10:33 PM
                            [**2124-8-31**]  03:04 AM
   WBC
   7.9
   8.6
   7.6
   Hct
   27.1
   24.9
   26.4
   23.9
   Plt
   181
   201
   169
   Cr
   0.8
   0.6
   TropT
   0.26
   0.19
   TCO2
   30
   33
   Glucose
   177
   127
   Other labs:
   Ca: 8.2, Mg: 1.7, Phos: 2.8
   Lactate: 0.8
   Microbiology:
   Urine Cx: mixed skin flora
   Sputum Cx: mixed flora c/w oropharyngeal flora
   Imaging:
   CT Chest ([**8-30**]): IMPRESSION: 1. New left lower lobe opacification,
   which could be secondary to infectious pneumonia and/or atelectasis.
   2. Resolution of right upper lobe consolidation.
   3. Stable bilateral cylindrical bronchiectasis and centrilobular
   emphysema.
   4. Stable extent of multiple vertebral compression fractures, sternal
   fracture, and rib fractures.
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression, w recent hospitalizations for his
   bronchiolitis obliterans and for resistant pseudomonal infections,
   presenting w respiratory distress and hypotension.
   .
   # Hypoxic Respiratory Failure:
   Likely secondary to pneumonia in the setting of his chronic lung
   disease.  He would be likely to have mucus plugging but Bronch didn
   show any significant secretions or mucus plugging, but he had been
   suctioned aggressively prior to bronch.  Could also be related to
   worsening of his bronchiectasis and bronchiolitis obliterans.
   - Pt doing well on PS of [**3-21**], RSBI on 5/0 was 25, will attempt SBT this
   morning for possible extubation
   - Broad-spectrum coverage w zosyn and linezolid for now to cover
   multiple organisms w various drug resistance patterns
   - f/u fungal markers
   - ID following, appreciate recs
   - Chest CT concerning for LLL PNA vs. bronchiectasis/atelectasis, has
   had similar appearances on prior CT
   - F/U C.diff once patient has a BM
   .
   # Hypotension:
   Likely secondary to sepsis because patient's BP did not appear to
   respond to fluids in the ED, and he presented w bandemia of 33% lactate
   of 3.5.  Has been weaned off norepinephrine and MAPs stable in low 70s
   so far w good urine output.
   - IVF boluses as needed for BP and urine output
   - continue linezolid, zosyn for now to broadly cover organisms he has
   grown out in past
   - f/u w ID Recs regarding complicated hx of multiple organisms w strong
   resistance patterns
   - holding home metoprolol
   .
   # CML s/p BMT, Chronic GVHD, immunosuppression:
   Chronic Abdominal pain. needs stress dose steroids, but consider he
   needs to fight infection and should not be further suppressed w
   steroids.
   - IV methylpredisolone Q8h
   - needs increase in PPI dose
   - needs sliding scale insulin for increased steroid dose
   - trend LFTs
   - cont cellcept
   - cont bactrim, acyclovir, voriconazole for prophylaxis
   .
   # Troponin Leak:
   Trop in ED was elevated to 0.66 and trended down, but CK and CK-MB were
   normal. EKG did not show any changes (inferior lead non-specific Twave
   changes were in previous EKGs). Not likely to be an ACS. [**Month (only) 60**] have had
   some demand ischemia related to hypotension.
   - continue to monitor
   .
   # Diarrhea:
   Pt has had multiple recent hospitalizations on strong antibiotics, and
   he was just discharged from Rehab prior to this admission. He is on
   multiple antibiotics for his home prophylactic regimen as well. Likely
   has an antibiotic-associated diarrhea.  [**Month (only) 60**] also have a GVHD-associated
   diarrhea.
   - cf/u C. diff
   - cont to monitor
   .
   # Hx of PE, DVT:
   Has hx of multiple PEs in [**2122**] and DVT in early [**2123**]. Needs chronic
   anticoagulation.
   - Continue on home dose of lovenox , 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace from home
   - pain control w fentanyl patches and has IV fentanyl for sedation on
   Vent
   - have held some of his home pain meds (e.g., methadone), which should
   be added back when he is no longer on sedation
   .
   # hx of GERD
   - Lansoprazole via NG tube
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: lansoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments: Patient, sister
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2124-08-31 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - will add fungal cultures per ID and continue on current coverage.
   - CT: LLL infiltrate... possibly PNA, but has had this before, may be
   part of his bronchiectasis
   - lactate normal at 0.8
   - Patient doing well on PS 5/5. will do sbt at 0500 and likely extubate
   tomorrow.
   -RSBI on 5/0 was 25, will do an SBT early in the morning
   - HCT since admission: 27.1
24.9
26.4
23.9- will recheck in the
   afternoon
   - bleeding line site stabilized with pressure dressings
   - c. diff pending...no bowel movement today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-8-29**] 08:23 PM
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-8-30**] 11:23 PM
   Linezolid - [**2124-8-30**] 11:50 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-31**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 70 (53 - 77) bpm
   BP: 109/60(71) {103/54(66) - 161/139(144)} mmHg
   RR: 15 (8 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
   Height: 62 Inch
    CVP: 4 (4 - 14)mmHg
   Total In:
                                                                  1,719 mL
                                                                     72 mL
   PO:
   TF:
   IVF:
                                                                  1,449 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    320 mL
   Urine:
                                                                  1,240 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    479 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 640 (496 - 763) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 8.4 L/min
   Physical Examination
   General: responsive to verbal commands, no acute distress
   HEENT: intubated, pupils equal and reactive
   Neck: RIJ in place, bleeding significantly from the site ;  bleeding
   also from right subclavian site where it appears another central line
   had been attempted previously
   Lungs: Coarse BS bilat with diminished sounds at L base
   CV: soft heart sounds, RRR no m/r/g.
   Abdomen: soft, diffuse tenderness without rebound/guarding, mildly
   distended, bowel sounds present
   Ext: ecchymotic, 3+ LE pitting edema, weeping; has some erythema on
   lower anterior legs L>R . Warm with 2+ pulses; toes almost
   cyanotic-appearing but warm.
   Skin: very thin and delicate; has skin tears ; dark ecchymoses right
   shoulder and upper chest
   Labs / Radiology
   169 K/uL
   7.9 g/dL
   127 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   23.9 %
   7.6 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
                            [**2124-8-30**]  04:28 PM
                            [**2124-8-30**]  10:33 PM
                            [**2124-8-31**]  03:04 AM
   WBC
   7.9
   8.6
   7.6
   Hct
   27.1
   24.9
   26.4
   23.9
   Plt
   181
   201
   169
   Cr
   0.8
   0.6
   TropT
   0.26
   0.19
   TCO2
   30
   33
   Glucose
   177
   127
   Other labs:
   Ca: 8.2, Mg: 1.7, Phos: 2.8
   Lactate: 0.8
   Microbiology:
   Urine Cx: mixed skin flora
   Sputum Cx: mixed flora c/w oropharyngeal flora
   Imaging:
   CT Chest ([**8-30**]): IMPRESSION: 1. New left lower lobe opacification,
   which could be secondary to infectious pneumonia and/or atelectasis.
   2. Resolution of right upper lobe consolidation.
   3. Stable bilateral cylindrical bronchiectasis and centrilobular
   emphysema.
   4. Stable extent of multiple vertebral compression fractures, sternal
   fracture, and rib fractures.
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression, w recent hospitalizations for his
   bronchiolitis obliterans and for resistant pseudomonal infections,
   presenting w respiratory distress and hypotension.
   .
   # Hypoxic Respiratory Failure:
   Likely secondary to pneumonia in the setting of his chronic lung
   disease.  He would be likely to have mucus plugging but Bronch didn
   show any significant secretions or mucus plugging, but he had been
   suctioned aggressively prior to bronch.  Could also be related to
   worsening of his bronchiectasis and bronchiolitis obliterans.
   - Pt doing well on PS of [**3-21**], RSBI on 5/0 was 25, will attempt SBT this
   morning for possible extubation
   - Broad-spectrum coverage w zosyn and linezolid for now to cover
   multiple organisms w various drug resistance patterns
   - f/u fungal markers
   - ID following, appreciate recs
   - Chest CT concerning for LLL PNA vs. bronchiectasis/atelectasis, has
   had similar appearances on prior CT
   - F/U C.diff once patient has a BM
   .
   # Hypotension:
   Likely secondary to sepsis because patient's BP did not appear to
   respond to fluids in the ED, and he presented w bandemia of 33% lactate
   of 3.5.  Has been weaned off norepinephrine and MAPs stable in low 70s
   so far w good urine output.
   - IVF boluses as needed for BP and urine output
   - continue linezolid, zosyn for now to broadly cover organisms he has
   grown out in past
   - f/u w ID Recs regarding complicated hx of multiple organisms w strong
   resistance patterns
   - holding home metoprolol
   .
   # CML s/p BMT, Chronic GVHD, immunosuppression:
   Chronic Abdominal pain. needs stress dose steroids, but consider he
   needs to fight infection and should not be further suppressed w
   steroids.
   - IV methylpredisolone Q8h
   - needs increase in PPI dose
   - needs sliding scale insulin for increased steroid dose
   - trend LFTs
   - cont cellcept
   - cont bactrim, acyclovir, voriconazole for prophylaxis
   .
   # Troponin Leak:
   Trop in ED was elevated to 0.66 and trended down, but CK and CK-MB were
   normal. EKG did not show any changes (inferior lead non-specific Twave
   changes were in previous EKGs). Not likely to be an ACS. [**Month (only) 60**] have had
   some demand ischemia related to hypotension.
   - continue to monitor
   .
   # Diarrhea:  Pt. with GVHD in GI, recent abx use both for recent
   infection and
   Pt has had multiple recent hospitalizations on strong antibiotics, and
   he was just discharged from Rehab prior to this admission. He is on
   multiple antibiotics for his home prophylactic regimen as well. Likely
   has an antibiotic-associated diarrhea.  [**Month (only) 60**] also have a GVHD-associated
   diarrhea.
   - cf/u C. diff
   - cont to monitor
   .
   # Hx of PE, DVT:
   Has hx of multiple PEs in [**2122**] and DVT in early [**2123**]. Needs chronic
   anticoagulation.
   - Continue on home dose of lovenox , 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace from home
   - pain control w fentanyl patches and has IV fentanyl for sedation on
   [**Last Name (LF) **], [**First Name3 (LF) 178**] restart po meds post extubation
   .
   # hx of GERD
   - Lansoprazole via NG tube
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: lansoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments: Patient, sister
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2124-08-31 11:17:00 Physician Attending Progress Note
Chief Complaint: resp failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   id consult
   sbt this am
   ct yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-8-29**] 08:23 PM
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Linezolid - [**2124-8-30**] 11:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-8-31**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-31**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 68 (55 - 77) bpm
   BP: 121/69(81) {103/54(66) - 161/139(144)} mmHg
   RR: 13 (8 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
   Height: 62 Inch
   CVP: 11 (4 - 14)mmHg
   Total In:
                                                                  1,719 mL
                                                                    271 mL
   PO:
   TF:
   IVF:
                                                                  1,449 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    590 mL
   Urine:
                                                                  1,240 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    479 mL
                                                                   -319 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 640 (496 - 763) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 6 cmH2O
   SpO2: 96%
   ABG: 7.41/52/87.[**Numeric Identifier 244**]/30/6
   Ve: 7.6 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : ant, Diminished: bases)
   Abdominal: Bowel sounds present, Distended, Tender: mild, diffuse,
   uunchanged
   Extremities: Right lower extremity edema: mild erythema at distal feet
   b/l, stable, 2+ edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   169 K/uL
   127 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   23.9 %
   7.6 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
                            [**2124-8-30**]  04:28 PM
                            [**2124-8-30**]  10:33 PM
                            [**2124-8-31**]  03:04 AM
                            [**2124-8-31**]  09:47 AM
   WBC
   7.9
   8.6
   7.6
   Hct
   27.1
   24.9
   26.4
   23.9
   Plt
   181
   201
   169
   Cr
   0.8
   0.6
   TropT
   0.26
   0.19
   TCO2
   30
   33
   34
   Glucose
   177
   127
   Other labs: CK / CKMB / Troponin-T:30/7/0.19, ALT / AST:70/52, Alk Phos
   / T Bili:437/0.2, Differential-Neuts:95.8 %, Lymph:1.5 %, Mono:2.3 %,
   Eos:0.1 %, Lactic Acid:0.8 mmol/L, LDH:263 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: chest--LLL atelectasis/pna, bronchietasis
   Microbiology: urine mixed skin flora, sputum mixed flora
   bl ngtd
   Assessment and Plan
   58  M w/ CML s/p allo- SCT, GVHD liver, GI track, and presumed lung (O2
   dep BO), multiple recent admission for resistant resp infections and
   poor secretion clearance,  presents with:
   # Resp failure-- appears most-likely [**12-20**] plugging, pna given chronic
   GVHD of lung with sig bronchietasis and poor secretion clearance.  His
   ct shows some collapse/atelectasis at LLL present on prior cts but new
   from alst.  Will cotninue to cover empirically (zosyn linexolid) for
   course for HAP.  Fungal markers resent and pending.  Doing well on SBT
   and apprears ready for extubation.  Secrettions have ebeen minimal.
   Continue with pulm toilet, flutter valve to assist with seceretion
   clerance.
   S/p bronch with cx
s sent and with minimal airway secretions.   His new
   volume loss at L base appears improved after intubation and bronch
   though he continues to have some chronic LLL collapse and probably
   small effusion at the L base.
        Will pursue CT chest to eval further.  We continue broad empiric
   antibx given hx of resistant bugs with help from ID team guiding
   coverage.  Would, continue aggressive chest pt, pulm toilet, sx and
   nebs.  He is still on a lot of peep 910).  Will assess on decreased
   peep, to move toward extubation.
   # Hypotension
in setting of peri-intubation, inf and diarrhea.
   Resolved with ivfs and off pressors since arrival to ICU.  Will resume
   home dose of steroids.
   # CML/allo-SCT/GVHD - continue outpatient regimen of immunosuppression
   aside from increased steroids briefly, continue prophylactic regimen.
   Additonal bmt input.
   # Diarrhea
 chronic, has stopped since admit in setting of being NPO.
    suspect related to GVHD, check C diff pending.
   # h/o DVT/PE - continue lovenox
   # Elevated LFTs
 trending to baseline, follow, likely GVHD, has had
   frequent imaging.
   # Chronic pain/vertebral fractures:  appears comfortable. continue fent
   patch, lido patch.  Resume additional home regimen with emthadone post
   extubation.
   ICU Care
   Nutrition:
   Npo for extubation, gchd diet post.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
consider picc or PIVs to complete
   antibx course.
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-08-31 11:17:00 Physician Attending Progress Note
Chief Complaint: resp failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   id consult input regarding antibx regimen
   sbt this am
   chest CT yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-8-29**] 08:23 PM
   Piperacillin - [**2124-8-29**] 08:38 PM
   Voriconazole - [**2124-8-29**] 09:18 PM
   Linezolid - [**2124-8-30**] 11:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-8-31**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-31**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 68 (55 - 77) bpm
   BP: 121/69(81) {103/54(66) - 161/139(144)} mmHg
   RR: 13 (8 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
   Height: 62 Inch
   CVP: 11 (4 - 14)mmHg
   Total In:
                                                                  1,719 mL
                                                                    271 mL
   PO:
   TF:
   IVF:
                                                                  1,449 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    590 mL
   Urine:
                                                                  1,240 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    479 mL
                                                                   -319 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 640 (496 - 763) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 6 cmH2O
   SpO2: 96%
   ABG: 7.41/52/87.[**Numeric Identifier 244**]/30/6
   Ve: 7.6 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: No acute distress, alert on vent
   Eyes / Conjunctiva: PERRL, MMM
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : ant, distant, Diminished:
   bases)
   Abdominal: Bowel sounds present, Distended, Tender: mild, diffuse,
   uunchanged
   Extremities: stable, 2+ edema
   Skin:  stable distal erythema, chronic skin changes at LE
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   7.9 g/dL
   169 K/uL
   127 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   23.9 %
   7.6 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
                            [**2124-8-30**]  04:28 PM
                            [**2124-8-30**]  10:33 PM
                            [**2124-8-31**]  03:04 AM
                            [**2124-8-31**]  09:47 AM
   WBC
   7.9
   8.6
   7.6
   Hct
   27.1
   24.9
   26.4
   23.9
   Plt
   181
   201
   169
   Cr
   0.8
   0.6
   TropT
   0.26
   0.19
   TCO2
   30
   33
   34
   Glucose
   177
   127
   Other labs: CK / CKMB / Troponin-T:30/7/0.19, ALT / AST:70/52, Alk Phos
   / T Bili:437/0.2, Differential-Neuts:95.8 %, Lymph:1.5 %, Mono:2.3 %,
   Eos:0.1 %, Lactic Acid:0.8 mmol/L, LDH:263 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: chest--LLL atelectasis/pna, bronchietasis
   Microbiology: urine mixed skin flora, sputum mixed flora
   bl ngtd
   Assessment and Plan
   58  M w/ CML s/p allo- SCT, GVHD liver, GI track, and presumed lung (O2
   dep BO), multiple recent admission for resistant resp infections and
   poor secretion clearance,  presents with:
   # Resp failure-- appears most-likely [**12-20**] plugging, pna given chronic
   GVHD of lung with sig bronchietasis and poor secretion clearance. S/p
   bronch with no plugging, min secretions seen. His ct chest showed some
   collapse/atelectasis at LLL present on prior ct scans but new c/t [**Month (only) **].
      Will continue to cover empirically (zosyn / linezolid)  for HAP. Cx
   data unrevealing and minimal et secretions.   Fungal markers resent and
   pending.  Doing well on SBT and will move toward extubation.  Continue
   with pulm toilet, nebs, flutter valve to assist with secretion
   clearance.
   # Hypotension--in setting of peri-intubation, infection, and diarrhea.
   Resolved with ivfs and remains off pressors since arrival to ICU.  Will
   resume home dose of steroids.
   # CML/allo-SCT/GVHD -- continue outpatient regimen of
   immunosuppression, continue prophylactic regimen.  Additional bmt
   input.
   # Diarrhea
is chronic, has stopped since his admit in setting of being
   NPO.  Suspect related to GVHD, but checking C diff given frequent
   antibx.
   # h/o DVT/PE - continue lovenox
   # Elevated LFTs
 trending to baseline, follow, likely GVHD, has had
   frequent imaging.
   # Chronic pain/vertebral fractures--appears comfortable. continue fent
   patch, lido patch.  Resume additional home regimen with methadone post
   extubation.
   ICU Care
   Nutrition:
   Npo for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
consider picc or PIVs to complete
   antibx course.
   20 Gauge - [**2124-8-29**] 07:05 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-09-01 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-8-31**] 11:28 AM
 PICC LINE - START [**2124-8-31**] 09:18 PM
   - SBT x2 hrs, very comfortable, did well--> so he was extubated without
   difficulty, did well on face tent
   - on Nasal canula 4L this AM, saturations around 98%
   - PICC line placed to complete 10day course of zosyn, now on po
   linezolid
   - PICC line not in right position, but central line cannot be taken out
   until pt has more access
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2124-8-29**] 08:38 PM
   Acyclovir - [**2124-8-31**] 08:00 PM
   Linezolid - [**2124-8-31**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-1**] 12:31 AM
   Voriconazole - [**2124-9-1**] 12:31 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-31**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-1**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 72 (66 - 111) bpm
   BP: 152/79(98) {113/57(73) - 155/95(105)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
   Height: 62 Inch
    CVP: 11 (10 - 17)mmHg
   Total In:
                                                                  1,051 mL
                                                                    412 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    801 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    970 mL
   Urine:
                                                                  1,950 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -899 mL
                                                                   -558 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.45/46/71/33/6
   Ve: 7.6 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General: alert, oriented, no acute distress
   HEENT:  pupils equal and reactive
   Neck: RIJ in place
   Lungs: Coarse basilar crackles b/l with diminished sounds at L base
   CV: soft heart sounds, RRR no m/r/g.
   Abdomen: soft, diffuse tenderness without rebound/guarding, mildly
   distended, bowel sounds present
   Ext: ecchymotic, 3+ LE pitting edema, weeping; has some erythema on
   lower anterior legs L>R . Warm with 2+ pulses; toes warm.
   Skin: very thin and delicate; has skin tears ; dark ecchymoses right
   shoulder and upper chest, diffuse erythema
   Labs / Radiology
   189 K/uL
   9.1 g/dL
   98 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.7 mEq/L
   15 mg/dL
   102 mEq/L
   140 mEq/L
   27.9 %
   8.6 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
                            [**2124-8-30**]  04:28 PM
                            [**2124-8-30**]  10:33 PM
                            [**2124-8-31**]  03:04 AM
                            [**2124-8-31**]  09:47 AM
                            [**2124-8-31**]  01:54 PM
                            [**2124-9-1**]  06:02 AM
   WBC
   7.9
   8.6
   7.6
   8.6
   Hct
   27.1
   24.9
   26.4
   23.9
   27.9
   Plt
   181
   201
   169
   189
   Cr
   0.8
   0.6
   0.6
   TropT
   0.26
   0.19
   TCO2
   30
   33
   34
   33
   Glucose
   177
   127
   98
   Other labs: CK / CKMB / Troponin-T:30/7/0.19, ALT / AST:70/52, Alk Phos
   / T Bili:437/0.2, Differential-Neuts:95.8 %, Lymph:1.5 %, Mono:2.3 %,
   Eos:0.1 %, Lactic Acid:0.8 mmol/L, LDH:263 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression, w recent hospitalizations for his
   bronchiolitis obliterans and for resistant pseudomonal infections,
   presenting w respiratory distress and hypotension.
   .
   # Hypoxic Respiratory Failure:
   Extubated successfully yesterday.  Has underlying bronchiectasis and
   bronchiolitis obliterans.  Still needs to finish antibiotic course for
   LLL pneumonia.  Stress dose steroids stopped yesterday and returned to
   home dose prednisone.
   - PICC line confirmation to finish zosyn course on floor and at home
   Call IR to reposition the line
   - Broad-spectrum coverage w zosyn and PO linezolid , day#[**1-25**]
   - f/u fungal markers
   - ID following, appreciate recs
   - F/U repeat sputum cx, and blood cx
   .
   # Hypotension/Sepsis:
   Not requiring pressors, urine output between 100cc/hr. BPs stable.
   - Lactate has normalized at 0.8, bandemia has resolved with abx
   treatment
   - continue linezolid, zosyn for now to broadly cover organisms he has
   grown out in past, day [**1-25**]
   - holding home metoprolol for now
 can restart on floor
   .
   # CML s/p allo SCT, Chronic GVHD of lung/liver/GI tract,
   immunosuppression:
   - restarted home budesonide dose and discontinued stress dose steroids
   - continue sliding scale insulin with increased steroid dose
   - trend LFTs
   - cont cellcept
switched to PO
   - cont bactrim, acyclovir, voriconazole for prophylaxis
   .
   # Diarrhea:  Pt. with GVHD in GI, recent abx use both for recent
   infection and continued home doses for ppx
   - Per ID could also be related to cytokine GI hypermobility with the
   start of his pneumonia, the improvement in diarrhea with antibiotic
   treatment for pneumonia also argues that this is the case
   - restart GVHD diet to help decrease diarrhea and restarted home
   budesonide
   .
   # Hx of PE, DVT:
   Has hx of multiple PEs in [**2122**] and DVT in early [**2123**]. Needs chronic
   anticoagulation.
   - Continue on home dose of lovenox , 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace from home
consult PT to help him get up into chair and use
   his brace
   - pain control w fentanyl and lidocaine patches and home po pain meds
   - may need to increase methadone dose
 talk to Dr. [**Last Name (STitle) 1750**] about
   changing regimen
   .
   # hx of GERD
   - pantoprazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   PICC Line - [**2124-8-31**] 09:18 PM
   Prophylaxis:
   DVT: therapeutic lovenox
   Stress ulcer:  pantoprazole
   VAP:
   Comments:
   Communication:  Comments: patient, sister
   [**Name (NI) 66**] status: Full code
   Disposition:

2124-09-01 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-8-31**] 11:28 AM
 PICC LINE - START [**2124-8-31**] 09:18 PM
   - SBT x2 hrs, very comfortable, did well--> so he was extubated without
   difficulty, did well on face tent
   - on Nasal canula 4L this AM, saturations around 98%
   - PICC line placed to complete 10day course of zosyn, now on po
   linezolid
   - PICC line not in right position, but central line cannot be taken out
   until pt has more access
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2124-8-29**] 08:38 PM
   Acyclovir - [**2124-8-31**] 08:00 PM
   Linezolid - [**2124-8-31**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-1**] 12:31 AM
   Voriconazole - [**2124-9-1**] 12:31 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-31**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-1**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 72 (66 - 111) bpm
   BP: 152/79(98) {113/57(73) - 155/95(105)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
   Height: 62 Inch
    CVP: 11 (10 - 17)mmHg
   Total In:
                                                                  1,051 mL
                                                                    412 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    801 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    970 mL
   Urine:
                                                                  1,950 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -899 mL
                                                                   -558 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.45/46/71/33/6
   Ve: 7.6 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General: alert, oriented, no acute distress
   HEENT:  pupils equal and reactive
   Neck: RIJ in place
   Lungs: Coarse basilar crackles b/l with diminished sounds at L base
   CV: soft heart sounds, RRR no m/r/g.
   Abdomen: soft, diffuse tenderness without rebound/guarding, mildly
   distended, bowel sounds present
   Ext: ecchymotic, 3+ LE pitting edema, weeping; has some erythema on
   lower anterior legs L>R . Warm with 2+ pulses; toes warm.
   Skin: very thin and delicate; has skin tears ; dark ecchymoses right
   shoulder and upper chest, diffuse erythema
   Labs / Radiology
   189 K/uL
   9.1 g/dL
   98 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.7 mEq/L
   15 mg/dL
   102 mEq/L
   140 mEq/L
   27.9 %
   8.6 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
                            [**2124-8-30**]  04:28 PM
                            [**2124-8-30**]  10:33 PM
                            [**2124-8-31**]  03:04 AM
                            [**2124-8-31**]  09:47 AM
                            [**2124-8-31**]  01:54 PM
                            [**2124-9-1**]  06:02 AM
   WBC
   7.9
   8.6
   7.6
   8.6
   Hct
   27.1
   24.9
   26.4
   23.9
   27.9
   Plt
   181
   201
   169
   189
   Cr
   0.8
   0.6
   0.6
   TropT
   0.26
   0.19
   TCO2
   30
   33
   34
   33
   Glucose
   177
   127
   98
   Other labs: CK / CKMB / Troponin-T:30/7/0.19, ALT / AST:70/52, Alk Phos
   / T Bili:437/0.2, Differential-Neuts:95.8 %, Lymph:1.5 %, Mono:2.3 %,
   Eos:0.1 %, Lactic Acid:0.8 mmol/L, LDH:263 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression, w recent hospitalizations for his
   bronchiolitis obliterans and for resistant pseudomonal infections,
   presenting w respiratory distress and hypotension.
   .
   # Hypoxic Respiratory Failure:
   Extubated successfully yesterday.  Has underlying bronchiectasis and
   bronchiolitis obliterans.  Still needs to finish antibiotic course for
   LLL pneumonia.  Stress dose steroids stopped yesterday and returned to
   home dose prednisone.
   - PICC line confirmation to finish zosyn course on floor and at home
   Call IR to reposition the line
   - Broad-spectrum coverage w zosyn and PO linezolid , day#[**1-25**]
   - f/u fungal markers
   - ID following, appreciate recs
   - F/U repeat sputum cx, and blood cx
   .
   # Hypotension/Sepsis:
   Not requiring pressors, urine output between 100cc/hr. BPs stable.
   - Lactate has normalized at 0.8, bandemia has resolved with abx
   treatment
   - continue linezolid, zosyn for now to broadly cover organisms he has
   grown out in past, day [**1-25**]
   - holding home metoprolol for now
 can restart on floor
   .
   # CML s/p allo SCT, Chronic GVHD of lung/liver/GI tract,
   immunosuppression:
   - restarted home budesonide dose and discontinued stress dose steroids
   - continue sliding scale insulin with increased steroid dose
   - trend LFTs
   - cont cellcept
switched to PO
   - cont bactrim, acyclovir, voriconazole for prophylaxis
   .
   # Diarrhea:  Pt. with GVHD in GI, recent abx use both for recent
   infection and continued home doses for ppx
   - Per ID could also be related to cytokine GI hypermobility with the
   start of his pneumonia, the improvement in diarrhea with antibiotic
   treatment for pneumonia also argues that this is the case
   - restart GVHD diet to help decrease diarrhea and restarted home
   budesonide
   .
   # Hx of PE, DVT:
   Has hx of multiple PEs in [**2122**] and DVT in early [**2123**]. Needs chronic
   anticoagulation.
   - Continue on home dose of lovenox , 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace from home
consult PT to help him get up into chair and use
   his brace
   - pain control w fentanyl and lidocaine patches and home po pain meds
   - may need to increase methadone dose
 talk to Dr. [**Last Name (STitle) 1750**] about
   changing regimen
   .
   # hx of GERD
   - pantoprazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   PICC Line - [**2124-8-31**] 09:18 PM
   Prophylaxis:
   DVT: therapeutic lovenox
   Stress ulcer:  pantoprazole
   VAP:
   Comments:
   Communication:  Comments: patient, sister
   [**Name (NI) 66**] status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  58  M w/ CML s/p allo- SCT, GVHD liver, GI
   track, and presumed lung (O2 dep BO), multiple recent admission for
   resistant resp infections and poor secretion clearance,  who presented
   with respiratory failure and hypotension in setting of LLL atelectasis
   / pna.  He was successfully extubated yesterday and is now comfortable
   appearing on 4L NC.
   He remains AF with stable BP and HR.  O2 sats 98% on 2L.  He is alert
   and in NAD.  Lungs with distant BS and end exp wheeze appreciated.  His
   heart is regular. Abd is distended but soft, + BS, with stable mildl
   diffuse tenderness. His LE skin changes are stable.
   His labs were reviewed and are noted above.
   A/P: Mr. [**Name13 (STitle) 10586**] is doing well from a respiratory standpoint post
   -extubation.  He remains normotensive with good urine output. We are
   treating for pna given CT findings with LLL collapse / atelectasis
   noting no positive cx data to guide and minimal secretions seen on
   bronch.  We will continue zosyn/linezolid to complete a 10 day course.
   Picc line was placed at bedside, but needs to be repositioned by IR,
   after which we will pull his CVL. Will continue with pulm toilet, nebs,
   flutter valve or incentive spirometer to assist with secretion
   clearance.  We will work to optimize his chronic pain control from
   vertebral fractures as this will help further with his breathing. Will
   continue his outpt regimen of fent patch, lido patch, methadone, lyrica
   and morphine and have him use his brace when sitting up.  If pain
   control remains suboptimal once back on home doses, would consider
   increasing his methadone.  His diarrhea is chronic, now better, and we
   suspect is related to GVHD, but checking C diff given frequent antibx.
   We continue his outpatient CML/allo-SCT/GVHD regimen of
   immunosuppression and prophylaxsis. Will ask PT to work with him given
   deconditioning.  Remainder as per resident note.
   He is stable for transfer to BMT.
   Time spent 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2124-9-1**] 12:26 PM ------

2124-09-01 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-8-31**] 11:28 AM
 PICC LINE - START [**2124-8-31**] 09:18 PM
   - SBT x2 hrs, very comfortable, doing well-->extubated without
   difficulty, doing well on face mask
   - PICC line placed to complete 10day course of zosyn, now on po
   linezolid
   - PICC line hits central line, which cannot be taken out until pt has
   more access
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2124-8-29**] 08:38 PM
   Acyclovir - [**2124-8-31**] 08:00 PM
   Linezolid - [**2124-8-31**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-1**] 12:31 AM
   Voriconazole - [**2124-9-1**] 12:31 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-31**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-1**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 72 (66 - 111) bpm
   BP: 152/79(98) {113/57(73) - 155/95(105)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
   Height: 62 Inch
    CVP: 11 (10 - 17)mmHg
   Total In:
                                                                  1,051 mL
                                                                    412 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    801 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    970 mL
   Urine:
                                                                  1,950 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -899 mL
                                                                   -558 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.45/46/71/33/6
   Ve: 7.6 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General: alert, oriented, no acute distress
   HEENT: intubated, pupils equal and reactive
   Neck: RIJ in place
   Lungs: Coarse BS b/l with diminished sounds at L base
   CV: soft heart sounds, RRR no m/r/g.
   Abdomen: soft, diffuse tenderness without rebound/guarding, mildly
   distended, bowel sounds present
   Ext: ecchymotic, 3+ LE pitting edema, weeping; has some erythema on
   lower anterior legs L>R . Warm with 2+ pulses; toes warm.
   Skin: very thin and delicate; has skin tears ; dark ecchymoses right
   shoulder and upper chest, diffuse erythema
   Labs / Radiology
   189 K/uL
   9.1 g/dL
   98 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.7 mEq/L
   15 mg/dL
   102 mEq/L
   140 mEq/L
   27.9 %
   8.6 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
                            [**2124-8-30**]  04:28 PM
                            [**2124-8-30**]  10:33 PM
                            [**2124-8-31**]  03:04 AM
                            [**2124-8-31**]  09:47 AM
                            [**2124-8-31**]  01:54 PM
                            [**2124-9-1**]  06:02 AM
   WBC
   7.9
   8.6
   7.6
   8.6
   Hct
   27.1
   24.9
   26.4
   23.9
   27.9
   Plt
   181
   201
   169
   189
   Cr
   0.8
   0.6
   0.6
   TropT
   0.26
   0.19
   TCO2
   30
   33
   34
   33
   Glucose
   177
   127
   98
   Other labs: CK / CKMB / Troponin-T:30/7/0.19, ALT / AST:70/52, Alk Phos
   / T Bili:437/0.2, Differential-Neuts:95.8 %, Lymph:1.5 %, Mono:2.3 %,
   Eos:0.1 %, Lactic Acid:0.8 mmol/L, LDH:263 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression, w recent hospitalizations for his
   bronchiolitis obliterans and for resistant pseudomonal infections,
   presenting w respiratory distress and hypotension.
   .
   # Hypoxic Respiratory Failure:
   Extubated successfully yesterday.  Has underlying bronchiectasis and
   bronchiolitis obliterans.  Still needs to finish antibiotic course for
   LLL pneumonia.  Stress dose steroids stopped yesterday and returned to
   home dose prednisone.
   - PICC line confirmation to finish zosyn course on floor and at home
   - Broad-spectrum coverage w zosyn and PO linezolid , day#[**1-25**]
   - f/u fungal markers
   - ID following, appreciate recs
   - F/U C.diff once patient has a BM, if diarrhea worsens will
   empirically start patient on po Vancomycin pending C.diff results
   - F/U repeat sputum cx, and blood cx
   .
   # Hypotension/Sepsis:
   Not requiring pressors, urine output between 100cc/hr.
   - Lactate has normalized at 0.8, bandemia has resolved with abx
   treatment
   - IVF boluses as needed for BP and urine output
   - continue linezolid, zosyn for now to broadly cover organisms he has
   grown out in past, day [**12-28**]
   - Low threshold for empiric po Vancomycin for worsening diarrhea
   - holding home metoprolol for now
   .
   # CML s/p allo SCT, Chronic GVHD of lung/liver/GI tract,
   immunosuppression: started stress dose steroids will continue while he
   is intubated, but will discontinue on extubation, and resumed home dose
   - restarted home budesonide dose
   - continue sliding scale insulin with increased steroid dose
   - trend LFTs
   - cont cellcept
   - cont bactrim, acyclovir, voriconazole for prophylaxis
   .
   # Troponin Leak:
   Trop in ED was elevated to 0.66 and trended down, but CK and CK-MB were
   normal.  Likely to have been related to demand ischemia in the setting
   of hypotension.
   - troponins trended down to 0.19, and his CK  and index remained normal
   throughout his course
   - continue to monitor
   .
   # Diarrhea:  Pt. with GVHD in GI, recent abx use both for recent
   infection and continued home doses for ppx
   - Per ID could also be related to cytokine GI hypermobility with the
   start of his pneumonia, the improvement in diarrhea with antibiotic
   treatment for pneumonia also argues that this is the case
   - Send c.diff once patient has a BM, if diarrhea worsens will
   empirically start po vanco pending C.diff results
   - restart GVHD diet to help decrease diarrhea and restarted home
   budesonide
   .
   # Hx of PE, DVT:
   Has hx of multiple PEs in [**2122**] and DVT in early [**2123**]. Needs chronic
   anticoagulation.
   - Continue on home dose of lovenox , 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace from home
   - pain control w fentanyl and lidocaine patches and home po pain meds
   .
   # hx of GERD
   - Lansoprazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   PICC Line - [**2124-8-31**] 09:18 PM
   Prophylaxis:
   DVT: therapeutic lovenox
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments: patient, sister
   [**Name (NI) 66**] status: Full code
   Disposition:

2124-09-01 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-8-31**] 11:28 AM
 PICC LINE - START [**2124-8-31**] 09:18 PM
   - SBT x2 hrs, very comfortable, doing well-->extubated without
   difficulty, doing well on face mask
   - PICC line placed to complete 10day course of zosyn, now on po
   linezolid
   - PICC line hits central line, which cannot be taken out until pt has
   more access
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2124-8-29**] 08:38 PM
   Acyclovir - [**2124-8-31**] 08:00 PM
   Linezolid - [**2124-8-31**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-1**] 12:31 AM
   Voriconazole - [**2124-9-1**] 12:31 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-8-31**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-1**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 72 (66 - 111) bpm
   BP: 152/79(98) {113/57(73) - 155/95(105)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 73.7 kg
   Height: 62 Inch
    CVP: 11 (10 - 17)mmHg
   Total In:
                                                                  1,051 mL
                                                                    412 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    801 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    970 mL
   Urine:
                                                                  1,950 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -899 mL
                                                                   -558 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.45/46/71/33/6
   Ve: 7.6 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General: alert, oriented, no acute distress
   HEENT: intubated, pupils equal and reactive
   Neck: RIJ in place
   Lungs: Coarse BS b/l with diminished sounds at L base
   CV: soft heart sounds, RRR no m/r/g.
   Abdomen: soft, diffuse tenderness without rebound/guarding, mildly
   distended, bowel sounds present
   Ext: ecchymotic, 3+ LE pitting edema, weeping; has some erythema on
   lower anterior legs L>R . Warm with 2+ pulses; toes warm.
   Skin: very thin and delicate; has skin tears ; dark ecchymoses right
   shoulder and upper chest, diffuse erythema
   Labs / Radiology
   189 K/uL
   9.1 g/dL
   98 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.7 mEq/L
   15 mg/dL
   102 mEq/L
   140 mEq/L
   27.9 %
   8.6 K/uL
        [image002.jpg]
                            [**2124-8-29**]  05:36 PM
                            [**2124-8-29**]  08:51 PM
                            [**2124-8-30**]  12:46 AM
                            [**2124-8-30**]  04:04 AM
                            [**2124-8-30**]  04:28 PM
                            [**2124-8-30**]  10:33 PM
                            [**2124-8-31**]  03:04 AM
                            [**2124-8-31**]  09:47 AM
                            [**2124-8-31**]  01:54 PM
                            [**2124-9-1**]  06:02 AM
   WBC
   7.9
   8.6
   7.6
   8.6
   Hct
   27.1
   24.9
   26.4
   23.9
   27.9
   Plt
   181
   201
   169
   189
   Cr
   0.8
   0.6
   0.6
   TropT
   0.26
   0.19
   TCO2
   30
   33
   34
   33
   Glucose
   177
   127
   98
   Other labs: CK / CKMB / Troponin-T:30/7/0.19, ALT / AST:70/52, Alk Phos
   / T Bili:437/0.2, Differential-Neuts:95.8 %, Lymph:1.5 %, Mono:2.3 %,
   Eos:0.1 %, Lactic Acid:0.8 mmol/L, LDH:263 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression, w recent hospitalizations for his
   bronchiolitis obliterans and for resistant pseudomonal infections,
   presenting w respiratory distress and hypotension.
   .
   # Hypoxic Respiratory Failure:
   Extubated successfully yesterday.  Has underlying bronchiectasis and
   bronchiolitis obliterans.  Still needs to finish antibiotic course for
   LLL pneumonia.
   - PICC line confirmation to finish zosyn course on floor and at home
   - Broad-spectrum coverage w zosyn and PO linezolid , day#[**1-25**]
   - f/u fungal markers
   - ID following, appreciate recs
   - F/U C.diff once patient has a BM, if diarrhea worsens will
   empirically start patient on po Vancomycin pending C.diff results
   - F/U repeat sputum cx, and blood cx
   .
   # Hypotension/Sepsis:
   Not requiring pressors, urine output between 40-60cc/hr.
   - Lactate has normalized at 0.8, bandemia has resolved with abx
   treatment
   - IVF boluses as needed for BP and urine output
   - continue linezolid, zosyn for now to broadly cover organisms he has
   grown out in past, day [**12-28**]
   - Low threshold for empiric po Vancomycin for worsening diarrhea
   - holding home metoprolol for now
   .
   # CML s/p allo SCT, Chronic GVHD of lung/liver/GI tract,
   immunosuppression: started stress dose steroids will continue while he
   is intubated, but will discontinue on extubation, and resumed home dose
   - restart home steroid dose post extubation
   - continue sliding scale insulin with increased steroid dose
   - trend LFTs
   - cont cellcept
   - cont bactrim, acyclovir, voriconazole for prophylaxis
   .
   # Troponin Leak:
   Trop in ED was elevated to 0.66 and trended down, but CK and CK-MB were
   normal.  Likely to have been related to demand ischemia in the setting
   of hypotension.
   - troponins trended down to 0.19, and his CK  and index remained normal
   throughout his course
   - continue to monitor
   .
   # Diarrhea:  Pt. with GVHD in GI, recent abx use both for recent
   infection and continued home doses for ppx
   - Per ID could also be related to cytokine GI hypermobility with the
   start of his pneumonia, the improvement in diarrhea with antibiotic
   treatment for pneumonia also argues that this is the case
   - Send c.diff once patient has a BM, if diarrhea worsens will
   empirically start po vanco pending C.diff results
   - will restart a GVHD diet to help decrease diarrhea
   .
   # Hx of PE, DVT:
   Has hx of multiple PEs in [**2122**] and DVT in early [**2123**]. Needs chronic
   anticoagulation.
   - Continue on home dose of lovenox , 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace from home
   - pain control w fentanyl and lidocaine patches and has IV fentanyl for
   sedation on [**Last Name (LF) **], [**First Name3 (LF) 178**] restart po meds post extubation
   .
   # hx of GERD
   - Lansoprazole via NG tube, will change to po once extubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-8-29**] 07:04 PM
   20 Gauge - [**2124-8-29**] 07:05 PM
   PICC Line - [**2124-8-31**] 09:18 PM
   Prophylaxis:
   DVT: therapeutic lovenox
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments: patient, sister
   [**Name (NI) 66**] status: Full code
   Disposition: